US20010016659A1
A slurry of 4-(1-isoindolinon-5-yloxy)-1-nitrobenzene (2.12 g, 7.8 mmol) and 10% Pd/C (0.20 g) in EtOH (50 mL) was stirred under an H2 atmosphere (balloon) for 4 h, then filtered through a pad of Celite®. The filtrate was concentrated under reduced pressure to afford 4-(1-oxoisoindolin-5-yloxy)aniline as a dark yellow solid: TLC (100% EtOAc) Rf 0.15.

reactant | 4-(1-isoindolinon-5-yloxy)-1-nitrobenzene | 7.8 mmol, 2.12 g | C1(NCC2=CC(=CC=C12)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H10N2O4
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | 4-(1-oxoisoindolin-5-yloxy)aniline | O=C1NCC2=CC(=CC=C12)OC1=CC=C(N)C=C1 | C14H12N2O2
